US07186724B2
31c: Preparation of 4-[1-(3-bromo-5-methoxymethyl-thiophen-2-yl)-methanoyl]-piperidine-1-carboxylic acid tert-butyl ester:
Add lithium diisopropyl amide (13.20 mL, 26.37 mmol, 1.05 equivalents) to a stirred, cold (−78° C.) solution of 4-bromo-2-methoxymethyl-thiophene (5.20 g, 25.11 mmol, 1.00 equivalents) in tetrahydrofuran (dry, 24.30 mL). Stir at −78° C. for 1 hour and add a solution of 4-(methoxy-methyl-carbamoyl)-piperidine-1-carboxylic acid tert-butyl ester (6.84 g, 25.11 mmol, 1.00 equivalents) in tetrahydrofuran (dry, 16.40 mL), dropwise. Stir the resulting solution at −78° C. for 3 hours. Quench the reaction mixture with saturated sodium chloride (aqueous, 50 mL). Allow the resulting mixture to warm to room temperature and extract with a mixture of ethyl acetate: diethyl ether (1:1, 3×35 mL). Combine the extracts, dry over magnesium sulfate, filter and evaporate. Purify the residue via flash column chromatography eluting with a mixture of n-heptane: ethyl acetate (4:1) to yield the desired product as a yellow oil (9.47 g). LC/MS (ESI), m/e 362 (M-56) and 418 (MH+), retention time 2.08 minutes. Condition II.

reactant | lithium diisopropyl amide | 26.37 mmol, 13.20 mL, 1.05 equivalents | C(C)(C)[N-]C(C)C.[Li+]
reactant | 4-bromo-2-methoxymethyl-thiophene | 25.11 mmol, 5.20 g, 1.00 equivalents | BrC=1C=C(SC1)COC | C6H7BrOS
reactant | 4-(methoxy-methyl-carbamoyl)-piperidine-1-carboxylic acid tert-butyl ester | 25.11 mmol, 6.84 g, 1.00 equivalents | C(C)(C)(C)OC(=O)N1CCC(CC1)C(N(C)OC)=O | C13H24N2O4
solvent | tetrahydrofuran | 24.30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 16.40 mL | O1CCCC1 | C4H8O
product | 4-[1-(3-bromo-5-methoxymethyl-thiophen-2-yl)-methanoyl]-piperidine-1-carboxylic acid tert-butyl ester | 9.47 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)C=1SC(=CC1Br)COC | C17H24BrNO4S
